US07589232B2
Step a) Formation of 4-tert-butyl-N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)benzamide
The titled compound was prepared following the procedure J using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and 4-tert-butylbenzoyl chloride as a colorless oil (76%). 1H NMR (CDCl3, 300 MHz) δ 7.65 (d, J=2.3 Hz, 1H), 7.46 (m, 4H), 7.30-7.16 (m, 8H), 7.01 (dd, J=8.7, 2.3 Hz, 1H), 6.74 (d, J=8.7 Hz, 1H), 5.14 (s, 2H), 2.64 (t, J=7.7 Hz, 2H), 1.68 (s, 6H), 1.62 (m, 2H), 1.38 (m, 2H), 1.25 (s, 9H), 0.95 (t, J=7.2 Hz, 3H). HPLC, Rt: 6.12 min (Purity: 97%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | 4-tert-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 4-tert-butyl-N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)benzamide | C(C)(C)(C)C1=CC=C(C(=O)N(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CC2=CC=C(C=C2)C#CC2=CC=C(C=C2)CCCC)C=C1 | C40H41NO4
